US08871753B2
Step B: 3-[(5-Chloro-4-{[3-(hydroxymethyl)phenyl]amino}pyrimidin-2-yl)amino]phenol
The desired compound was prepared according to the procedure of Example D5, step B, using {3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}methanol and 3-aminophenol as the starting materials in 85% yield. LCMS for C17H16ClN4O2 (M+H)+: m/z=343.1.

reactant | {3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}methanol | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CO)Cl | C11H9Cl2N3O
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | 3-[(5-Chloro-4-{[3-(hydroxymethyl)phenyl]amino}pyrimidin-2-yl)amino]phenol | 85% yield | ClC=1C(=NC(=NC1)NC=1C=C(C=CC1)O)NC1=CC(=CC=C1)CO | C17H15ClN4O2
